* Q10.qsch
L1 out 0 1µ
C1 out 0 1µ
R2 out 0 10
Iac 0 out AC Iac
G2 0 out N01 0 {Istep}
Ø´X2 «out´d N02´d» «N01´d» «»  STEP_v100 float Tstep={Tstep} float Tready={Tready} float Istep={Istep}
V1 N02 0 PULSE 0 5 Tstep 1n 1n 2.5n 5n
* PyQSPICE AC begin
*.param Tstep = 999
*.param Tready = 998
*.param Istep=0
*.param Iac= 1
*.ac dec 100 10 10Meg
*.plot ac V(out)
* PyQSPICE AC end
* PyQSPICE TRAN begin
.param Tstep = 1m
.param Tready = 0.5m
.param Istep=-1
.param Iac= 0
.tran 10m
.plot tran V(out)
.plot tran I(Istep)
* PyQSPICE TRAN end
*.end
